* E:\Git\Group Project\HAYES\Sims\Draft2.asc
V7 1.65v 0 1.65
V8 3.3v 0 3.3
V9 5V 0 5
M1 N013 N016 0 0 NMOS
L2 5V N013 500n
V1 N016 0 PULSE(0 5 1u 1u 1u 100u 1u 1)
C1 5V N013 500f
L5 N007 0 500n
L6 N015 0 1m
C2 N015 0 1n
XU1 N011 N005 3.3v 0 N002 ADA4891-1
R1 N001 N010 1k
R2 N011 N001 10k
C3 N011 1.65v 39p
C4 N002 N001 33p
R3 N002 N005 10k
R4 N005 1.65v 1k
XU2 N012 N006 3.3v 0 N004 ADA4891-1
R5 N004 N006 10k
R6 N006 1.65v 1k
C5 N003 N002 39p
C6 N012 N003 39p
R7 N012 1.65v 12k
R8 N004 N003 68k
R9 1.65v N008 1k
R10 N009 N014 1k
R11 N010 N009 15k
C13 N014 1.65v 1.8n
C14 N008 N007 1.8n
XU4 N008 N009 3.3v 0 N010 level2 Avol=1Meg GBW=20Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C7 5V 5V 10µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\harry\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L2 L5 0.9
.tran 0 100u 0
K2 L5 L6 0.1
.lib ADA4891-1.lib
.lib UniversalOpAmp2.lib
.backanno
.end
